US07495002B2
tert.butyl ((S)-1-methyl-2-methylamino-ethyl)-carbamate
6.00 ml methylamine solution (2 M in tetrahydrofuran) are added to 1.73 g tert.butyl ((S)-1-methyl-2-oxoethyl)-carbamate in 20 ml benzene with stirring at ambient temperature. Then 2.50 g anhydrous sodium sulphate are added and the reaction mixture is stirred overnight at ambient temperature. The sodium sulphate is suction filtered and washed again with benzene. The filtrate is evaporated down, taken up in 20 ml of methanol and combined with 397 mg sodium cyanoborohydride with stirring at ambient temperature. After 2.5 hours the reaction mixture is acidified by dropwise addition of approx. 20 ml 2 N citric acid and extracted with tert.-butylmethylether. The aqueous phase is made alkaline with 10 M sodium hydroxide solution and extracted with a methylene chloride/methanol mixture. The combined organic phases are dried over magnesium sulphate and evaporated down.

reactant | methylamine | 2 M, 6.00 ml | CN | CH5N
reactant | tert.butyl ((S)-1-methyl-2-oxoethyl)-carbamate | 1.73 g | C[C@@H](C=O)NC(OC(C)(C)C)=O | C8H15NO3
reactant | sodium sulphate | 2.50 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | tert.butyl ((S)-1-methyl-2-methylamino-ethyl)-carbamate | C[C@@H](CNC)NC(OC(C)(C)C)=O | C9H20N2O2
